US06831164B2
2,3,4,6-Tetra-O-pivaloyl-1-O-(5-carboxypentyl)-mannopyranose
A mixture that consists of 51.66 g (100 mmol) of 2,3,4,6-tetra-O-pivaloyl-mannopyranose, 0.55 g (5 mmol) of tetramethylammonium chloride and 82.93 g (600 mmol) of fine-powder potassium hydroxide in 350 ml of diethylene glycol dimethyl ether is cooled to 10° C. At 10° C., 35.7 g (150 mmol) of 6-bromohexanoic acid benzyl ester is added in drops within 10 minutes while being stirred vigorously. It is stirred for two hours at 10° C. 250 ml of MTB (methyl-tert-butyl ether) is added, solid is filtered out, and the filtrate is evaporated to the dry state in a vacuum. The residue is taken up in 500 ml of ethanol, mixed with 5 g of palladium (10%) on activated carbon and hydrogenated until hydrogen absorption is completed. Catalyst is filtered out, rewashed with ethanol, and the combined solutions are evaporated to the dry state in a vacuum. The residue is chromatographed on silica gel (mobile solvent: dichloromethane/n=hexane/ethanol/acetic acid=20:5:3:0.5). The product-containing fractions are concentrated by evaporation, dissolved in 400 ml of ethyl acetate and shaken out three times with 200 ml of water. Then, the organic phase is separated and evaporated to the dry state in a vacuum.

reactant | 2,3,4,6-tetra-O-pivaloyl-mannopyranose | 100 mmol, 51.66 g | C(C(C)(C)C)(=O)O[C@@H]1C(O)O[C@@H]([C@H]([C@@H]1OC(C(C)(C)C)=O)OC(C(C)(C)C)=O)COC(C(C)(C)C)=O | C26H44O10
reactant | potassium hydroxide | [OH-].[K+]
reactant | 6-bromohexanoic acid benzyl ester | 150 mmol, 35.7 g | C(C1=CC=CC=C1)OC(CCCCCBr)=O | C13H17BrO2
reactant | MTB | 250 ml | COC(C)(C)C | C5H12O
catalyst | tetramethylammonium chloride | 5 mmol, 0.55 g | [Cl-].C[N+](C)(C)C
solvent | diethylene glycol dimethyl ether | 350 ml | COCCOCCOC | C6H14O3
product | 2,3,4,6-Tetra-O-pivaloyl-1-O-(5-carboxypentyl)-mannopyranose | C(C(C)(C)C)(=O)O[C@@H]1C(OCCCCCC(=O)O)O[C@@H]([C@H]([C@@H]1OC(C(C)(C)C)=O)OC(C(C)(C)C)=O)COC(C(C)(C)C)=O | C32H54O12
